US07223765B2
5d, 3-{4-[4-(2,3-Dichlorophenyl)piperazin-1-yl]butyl}-5-fluoro-1H-indole
from 1-(2,3-dichlorophenyl)piperazine and 3-(4-chlorobutyl)-5-fluoro-1H-indole. Mp 147–148° C. 1H NMR (DMSO-d6): 1.45–1.55 (m, 2H); 1.60–1.70 (m, 2H); 2.35 (t, 2H); 2.50 (b s, 4H); 2.65 (t, 2H); 2.95 (b s, 4H); 6.85–6.95 (m, 1H); 7.10–7.15 (m, 1H); 7.20 (s, 1H); 7.25–7.35 (m, 4H); 10.85 (b s, 1H). Ms m/z: 420 (MH+).

reactant | 1-(2,3-dichlorophenyl)piperazine | ClC1=C(C=CC=C1Cl)N1CCNCC1 | C10H12Cl2N2
reactant | 3-(4-chlorobutyl)-5-fluoro-1H-indole | ClCCCCC1=CNC2=CC=C(C=C12)F | C12H13ClFN
product | 3-{4-[4-(2,3-Dichlorophenyl)piperazin-1-yl]butyl}-5-fluoro-1H-indole | ClC1=C(C=CC=C1Cl)N1CCN(CC1)CCCCC1=CNC2=CC=C(C=C12)F | C22H24Cl2FN3
